US06355636B1
To 100 mg of 4-(3-bromo-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile under an inert atmosphere was added 3 mL of 1 M sodium (2-dimethylamino-ethoxide) in tetrahydrofuran. After refluxing for 3 hours, the reaction was diluted with water and the product extracted five times with chloroform. The crude product was purified by flash chromatography with 1% triethyl amine and 10% methanol/chloroform followed by recrystallized from chloroform/ether to give 100 mg of 4-(3-bromo-phenylamino)-6-(2-dimethylamino-ethoxy)-[1.7]naphthyridine-3-carbonitrile as a yellow solid: melting point 138-139° C.; mass spectrum (m/e): M+H 411.9, 413.9.

reactant | 4-(3-bromo-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 100 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H8BrFN4
reactant | sodium (2-dimethylamino-ethoxide) | 1 M, 3 mL | CN(CC[O-])C.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(3-bromo-phenylamino)-6-(2-dimethylamino-ethoxy)-[1.7]naphthyridine-3-carbonitrile | 100 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)OCCN(C)C)C#N | C19H18BrN5O
